Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
In brief, this is an ___ right-handed woman with a
history of atrial fibrillation [not on anticoagulation],
hypertension, hyperlipidemia, chronic shoulder pain, depression,
bipolar disorder and noncompliance who presents with acute-onset
slurred speech.  Last known well was at 1100 on ___.  Her
son noticed that her speech changed acutely. She was slurring
words and had difficulties producing words/sentences.  She felt
lightheaded and was unsteady on her feet.  

She was taken to ___ where she was hypertensive to
220/130. EKG showed A. fib with RVR with rates in the 150s.  ___
stroke scale was 2 [scoring 1 for left-sided nasolabial fold
flattening, 1 for dysarthria].  An non-contrast head CT was
negative for hemorrhage.  A CTA of the head and neck did not 
show
any large vessel occlusion.  A tele-stroke consult was obtained. 

Given low ___ stroke scale TPA was deferred.  Patient was
transferred to ___ for further evaluation.

Talking to the patient and the patient's daughter it seems that
there has been a long-standing history of atrial fibrillation. 
Anticoagulation was deferred by the patient.
 
On neurological review of systems, the patient denies headache,
confusion, difficulties comprehending speech, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. 

 
Past Medical History:
Atrial fibrillation, not on AC
Hypertension
Hyperlipidemia
Chronic pain
Depression
Bipolar disorder
Left shoulder fracture
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Physical exam on admission:
Vitals:  HR 112 BP 166/98 RR 18 98% RA 
General: Awake, uncooperative.
HEENT: MMM, no lesions noted in oropharynx.
Neck: Supple.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Obese, soft, non-distended.
Extremities: B/l ___ edema. 
Skin: No rashes or lesions noted.
 
Neurologic:
- Mental Status: Alert, oriented x 3. Agitated and uncooperative
with exam. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. There were some paraphasic errors. Able to name
both high and low frequency objects.  Speech is dysarthric with
slurring of words. No evidence of neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Mild L NLF flattening
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline

-Motor: No pronator drift. No adventitious movements

  [___]
L    5-   5-   5-   /    5-  5-   5-   5-   5   5    5    /
R    5-   5-   5-   /    5-  5-   4+*  5-   5   5    5    /
*limited by pain

-Sensory: No deficits to light touch, pinprick, temperature. No
extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      1     /
R   2     2      2      1     / 
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF.

-Gait: Able to stand and walk with shuffling but steady gait.

 
Pertinent Results:
___ 06:30PM URINE  HOURS-RANDOM
___ 06:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD*
___ 06:30PM URINE  RBC-0 WBC-15* BACTERIA-FEW* YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 06:30PM URINE  MUCOUS-RARE*
___ 04:29PM   GLUCOSE-122* CREAT-0.9 NA+-142 K+-3.8 CL--103 
TCO2-27
___ 04:29PM   estGFR-Using this
___ 04:25PM   UREA N-17
___ 04:25PM   ALT(SGPT)-13 AST(SGOT)-22 ALK PHOS-83 TOT 
BILI-0.8
___ 04:25PM   cTropnT-<0.01
___ 04:25PM   ALBUMIN-4.6
___ 04:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:25PM   WBC-9.9 RBC-4.69 HGB-13.6 HCT-43.4 MCV-93 
MCH-29.0 MCHC-31.3* RDW-15.2 RDWSD-51.2*
___ 04:25PM   NEUTS-68.2 ___ MONOS-7.7 EOS-0.5* 
BASOS-0.4 IM ___ AbsNeut-6.77* AbsLymp-2.23 AbsMono-0.76 
AbsEos-0.05 AbsBaso-0.04
___ 04:25PM   PLT COUNT-235
___ 04:25PM   ___ PTT-23.4* ___

MRI head without contrast:
 
IMPRESSION: 
  
1. Late acute or subacute infarct in the left thalamus. 
2. Moderate periventricular, deep and subcortical white matter 
signal changes, 
likely related to chronic ischemic small vessel disease. 
3. Mild cerebral atrophy. 

EKG:

Atrial fibrillation
Low voltage, extremity and precordial leads
Anteroseptal infarct, old
Borderline ST depression, diffuse leads
 
Brief Hospital Course:
___ yo R-handed woman w/ hx of afib not on anticoagulation 
(patient has refused to be treated since the diagnosis), 
hypertension, hyperlipidemia, chronic shoulder pain, depression, 
bipolar disorder, and medication noncompliance admitted for 
acute ischemic stroke after presenting with acute onset slurred 
speech. MRI brain confirmed a punctate infarct in the left 
thalamocapsular region. Slurred speech improved during the 
hospitalization. The likely source of stroke was the untreated 
Afib, thus the patient was started on apixaban for 
anticoagulation and metoprolol tartrate for rate control. LDL 
was found to be elevated, so atorvastatin was also started. 
Patient passed the swallow evaluation, and ___ and OT cleared the 
patient for discharge home. Blood pressure was noted to be 
elevated at the outside hospital prior to transfer but has 
remained normal while inpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen Dose is Unknown  PO Frequency is Unknown 
2. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 (One) tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*1 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 (One) tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1 
3.  Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 (One) tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*1 
4.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of slurred speech 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

-atrial fibrillation (irregular beating of your heart)
-hypertension (high blood pressure)
-hyperlipidemia (high cholesterol)

We are changing your medications as follows:

-START apixaban 5 mg twice daily
-START metoprolol tartrate 25 mg twice daily
-START atorvastatin 40 mg daily

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___